US05677306
The ethyl 1-(6-chloro-1-oxo-1-indanyl)imidazole-2-carboxylate can be prepared as in Example 1 for the preparation of ethyl 1-(5-fluoro-1-oxo-2-indanyl)imidazole-2-carboxylate but starting with 2.5 g of ethyl imidazole-2-carboxylate, 0.7 g of 80% sodium hydride, 5.4 g of 2-bromo-6-chloro-1-indanone and a total of 70 ml of anhydrous dimethylformamide. After silica gel chromatography with a dichloromethane-ethyl acetate mixture (70-30 by volume), 1 g of ethyl 1-(6-chloro-1-oxo-2-indanyl)imidazole-2-carboxylate is obtained which melts at 180° C.

reactant | ethyl 1-(5-fluoro-1-oxo-2-indanyl)imidazole-2-carboxylate | FC=1C=C2CC(C(C2=CC1)=O)N1C(=NC=C1)C(=O)OCC | C15H13FN2O3
reactant | ethyl imidazole-2-carboxylate | 2.5 g | N1C(=NC=C1)C(=O)OCC | C6H8N2O2
reactant | sodium hydride | 0.7 g | [H-].[Na+]
reactant | 2-bromo-6-chloro-1-indanone | 5.4 g | BrC1C(C2=CC(=CC=C2C1)Cl)=O | C9H6BrClO
solvent | dichloromethane ethyl acetate | ClCCl.C(C)(=O)OCC
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | ethyl 1-(6-chloro-1-oxo-2-indanyl)imidazole-2-carboxylate | 1 g | ClC1=CC=C2CC(C(C2=C1)=O)N1C(=NC=C1)C(=O)OCC | C15H13ClN2O3
